US05824691
Methyl iodide (4.8 ml) was added dropwise to the mixture of methyl 3-(2-dimethylaminomethylpyrrol-1-yl)benzoate (10.0 g) and ethyl acetate (50 ml) at ambient temperature, and the mixture was stirred for 2 hours at the same temperature. The isolated precipitate was collected by filtration and dried to give methyl 3-(2-trimethylammoniomethylpyrrol-1-yl)benzoate iodide (13.52 g).

reactant | Methyl iodide | 4.8 ml | CI | CH3I
reactant | methyl 3-(2-dimethylaminomethylpyrrol-1-yl)benzoate | 10.0 g | CN(C)CC=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C15H18N2O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(2-trimethylammoniomethylpyrrol-1-yl)benzoate iodide | 13.52 g | [I-].C[N+](C)(C)CC=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | InChI=1S/C16H21N2O2.HI/c1-18(2,3)12-15-9-6-10-17(15)14-8-5-7-13(11-14)16(19)20-4;/h5-11H,12H2,1-4H3;1H/q+1;/p-1
